US08604074B2
Step 1. Synthesis of 3,6-dibromo-9-(3-bromopropyl)-9H-carbazole
Crushed KOH (0.0673 g, 1.20 mmol, 1.2 equiv) was added to 3,6-dibromocarbazole (0.3250 g, 1.00 mmol) in 2 mL DMF solution and the mixture was stirred for 30 min. 1,3-dibromopropane (0.5047 g, 2.50 mmol, 2.5 equiv) in 3 mL DMF solution was added dropwise into the mixture and it was stirred at room temperature overnight. The crude reaction mixture was diluted with 30 mL EtOAc and washed with 1M HCl 2×10 mL and water 3×10 mL. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using Hexanes/EtOAc to afford 0.1275 g colorless oil as product, yield 28.6%.

reactant | KOH | 1.20 mmol, 0.0673 g, 1.2 equiv | [OH-].[K+]
reactant | 3,6-dibromocarbazole | 1.00 mmol, 0.3250 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | 1,3-dibromopropane | 2.50 mmol, 0.5047 g, 2.5 equiv | BrCCCBr | C3H6Br2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3,6-dibromo-9-(3-bromopropyl)-9H-carbazole | 0.1275 g, yield 28.6% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CCCBr | C15H12Br3N
